US07501428B2
Similar procedure as described in example 1d was used, starting from 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one, 2,4-dimethoxy-phenylamine and DIEA to give 2-(2,4-dimethoxy-phenylamino)-5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one: LC-MS m/e observed. LC-MS m/e 393 (MH+).

reactant | 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one | CSC=1SC(C(N1)=O)=CC=1C=C2C=NC=NC2=CC1 | C13H9N3OS2
reactant | 2,4-dimethoxy-phenylamine | COC1=C(C=CC(=C1)OC)N | C8H11NO2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(2,4-dimethoxy-phenylamino)-5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | COC1=C(C=CC(=C1)OC)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=NC=NC2=CC1 | C20H16N4O3S
